US07534797B2
7-Chloro-8-fluoro-4-methyl-2-phenylquinoline
4-Bromo-7-chloro-8-fluoro-2-phenylquinoline (1.1 g, 03.3 mmol), methane boronic acid (196 mg, 3.27 mmol), potassium carbonate (1.4 g, 9.8 mmol) and 1,4-dioxane (4 mL) were combined and stirred in a 10 mL R.B. flask. The flask was subjected to 3 vacuum-argon cycles. Tetrakis(triphenylphosphine)palladium(0) (380 mg, 0.33 mmol) was added, and the reaction was again subjected to 3 vacuum argon-cycles. The reaction was heated at 108° C. (external temperature) for 27H, at which point the reaction was allowed to cool, and was diluted with ethyl acetate (30 mL), and water (30 mL). The layers were separated, and the aqueous layer extracted with ethyl acetate (30 mL). The organics were combined, dried over sodium carbonate, and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with hexanes:methylene chloride 2:1. This afforded the title compound as a white solid; 1H NMR (CDCl3, 400 MHz) δ 2.75 (s, 3H), 7.47-7.55 (m, 4H), 7.69-7.72 (dd, 1H, J=8.9 & 1.6 Hz), 7.77 (s, 1H), 8.18-8.21 (m, 2H); MS(APCI+): 272.07 (100) [MH+], 274.03 (30) [(M+2)H+]; HPLC tR=3.80 min (OpenLynx, nonpolar—5 min).

reactant | 4-Bromo-7-chloro-8-fluoro-2-phenylquinoline | 1.1 g | BrC1=CC(=NC2=C(C(=CC=C12)Cl)F)C1=CC=CC=C1 | C15H8BrClFN
reactant | methane boronic acid | 3.27 mmol, 196 mg | CB(O)O | CH5BO2
reactant | potassium carbonate | 9.8 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.33 mmol, 380 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Chloro-8-fluoro-4-methyl-2-phenylquinoline | ClC1=CC=C2C(=CC(=NC2=C1F)C1=CC=CC=C1)C | C16H11ClFN
